### PR TITLE
[Merged by Bors] - feat(CategoryTheory): `ChosenFiniteProducts (Over X)`

### PR DESCRIPTION
**Pull request by erdOne**
From Toric

---

- [x] depends on: #23723

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/ChosenFiniteProducts/Over.lean [hunk 1]
```diff
@@ -0,0 +1,150 @@
...
+lemma whiskerLeft_left {R S T : Over X} (f : S ⟶ T) :
+    (R ◁ f).left = pullback.map _ _ _ _ (𝟙 _) f.left (𝟙 _) (by simp) (by simp) := rfl
+
+@[simp]
+lemma whiskerRight_left {R S T : Over X} (f : S ⟶ T) :
+    (f ▷ R).left = pullback.map _ _ _ _ f.left (𝟙 _) (𝟙 _) (by simp) (by simp) := rfl
+
+@[simp]
+lemma tensorHom_left {R S T U : Over X} (f : R ⟶ S) (g : T ⟶ U) :
+    (f ⊗ g).left = pullback.map _ _ _ _ f.left g.left (𝟙 _) (by simp) (by simp) := rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ChosenFiniteProducts/Over.lean:140]: I am not sure we want these to be simp lemmas.

**Comment by sinhp** [comment]
@erdOne 
Just wanted to mention that this PR is welcome, and can be useful for me in the development of LCCCs in #21525.

I proved a similar fact to your `chosenFiniteProducts`.   
```
def isBinaryProductSigmaReindex (Y Z : Over X) :
     IsLimit <| BinaryFan.mk (P:= Σ_ Y (Δ_ Y Z)) (π_ Y Z) (μ_ Y Z) := by
```     
My strategy there was to get the monoidal API via the following instances 
```
attribute [local instance] ChosenFiniteProducts.ofFiniteProducts
attribute [local instance] monoidalOfChosenFiniteProducts
```
I was wondering if there is an advantage in explicitly constraining monoidal structure on `Over` as you do here rather than refactoring through `ChosenFiniteProducts.ofFiniteProducts`. I am asking because I want to understand better how things work in mathlib regarding `HasFiniteProducts` and `ChosenFiniteProducts` when it comes to providing/using cartesian monoidal structures.

**Comment by erdOne** [comment]
The motivation behind this PR is a applicational one: some lemmas in algebraic geometry are only written for pullbacks and it would be useful if the structure maps of group schemes coincides with them.

**Comment by sinhp** [comment]
> The motivation behind this PR is a applicational one: some lemmas in algebraic geometry are only written for pullbacks and it would be useful if the structure maps of group schemes coincides with them.

That makes sense. I guess what you want would not be possible with `ChosenFiniteProducts.ofFiniteProducts` since it uses choice.

File: Mathlib/CategoryTheory/ChosenFiniteProducts/Over.lean [hunk 2]
```diff
@@ -0,0 +1,177 @@
...
+
+variable {C : Type*} [Category C] [HasPullbacks C]
+
+/-- A choice of finite products of `Over X` given by `Limits.pullback`. -/
+@[reducible]
+noncomputable
+def chosenFiniteProducts (X : C) : ChosenFiniteProducts (Over X) where
+  product Y Z := ⟨BinaryFan.mk (P := Over.mk (pullback.snd Y.hom Z.hom ≫ Z.hom))
+      (Over.homMk (pullback.fst Y.hom Z.hom) pullback.condition)
+      (Over.homMk (pullback.snd Y.hom Z.hom) rfl),
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/ChosenFiniteProducts/Over.lean:29]: We should have a definition saying that this binary fan IsLimit in Over X provided that the underlying square IsPullback, and then you can use that here. This specific product defined as a pullback shows up in elementary topos theory as well in a fundamental way. In fact `Mathlib.CategoryTheory.Limits.Constructions.Over.Products` gives the Has version of all this. Can you use / generalise that to give these? More specifically, I think we should have the IsBinaryProduct implies IsPullback versions, and everything else deduced from that.

Comment (b-mehta) [reply Mathlib/CategoryTheory/ChosenFiniteProducts/Over.lean:29]: Ha, there's a prehistoric version of this here: https://github.com/b-mehta/topos/blob/c9032b11789e36038bc841a1e2b486972421b983/src/category/binary_products.lean#L271. I think that's what ended up being the construction I link above, but I'm not sure of the history. I have no doubt you can write something nicer :)

Comment (b-mehta) [reply Mathlib/CategoryTheory/ChosenFiniteProducts/Over.lean:29]: Oops, you're right. I shouldn't be thinking about over categories at 2am, clearly!

Comment (b-mehta) [reply Mathlib/CategoryTheory/ChosenFiniteProducts/Over.lean:29]: I should be more specific: the construction used in `over_binaryProduct_of_pullback` is the one I think should have an `Is` version (and currently doesn't, but the converse does), and that should be used to prove both `over_binaryProduct_of_pullback` and the new result here.

Comment (erdOne) [reply Mathlib/CategoryTheory/ChosenFiniteProducts/Over.lean]: Unfortunately the generic abstract nonsense doesn't give the right defeqs, but I've managed to add the construction by hand.

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean [hunk 3]
```diff
@@ -166,15 +166,49 @@ theorem over_hasTerminal (B : C) : HasTerminal (Over B) where
...
 section BinaryProduct
 
-variable {X : C} {Y Z : Over X}
+variable {X : C} (Y Z : Over X)
+
+/--
+Binary fans in the over category is equivalent to pullback cones.
+Also see `CategoryTheory.Over.ConstructProducts.conesEquivFunctor` for the wide pullback version.
+-/
+def pushoutCoconeEquivBinaryCofan : PullbackCone Y.hom Z.hom ≌ BinaryFan Y Z where
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:175]:
```suggestion
def pullbackConeEquivBinaryFan : PullbackCone Y.hom Z.hom ≌ BinaryFan Y Z where
```

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean [hunk 4]
```diff
@@ -166,15 +166,49 @@ theorem over_hasTerminal (B : C) : HasTerminal (Over B) where
...
+    map {c1 c2} a := { hom := a.hom.left, w := by rintro (_|_|_) <;> simp [← Over.comp_left] } }
+  unitIso := NatIso.ofComponents (fun c ↦ c.eta) (by intros; ext; dsimp; simp)
+  counitIso := NatIso.ofComponents (fun X ↦ Limits.BinaryFan.ext (Over.isoMk (Iso.refl _)
+    (by dsimp; simp)) (by ext; dsimp; simp) (by ext; dsimp; simp))
+    (by intros; ext; dsimp; simp [BinaryFan.ext])
+  functor_unitIso_comp c := by ext; dsimp; simp [BinaryFan.ext]
+
+/-- Binary products in the over category are given by pullbacks. -/
+-- `IsLimit.ofConeEquiv` isn't used here because it gives worse defeqs.
+def isLimitPushoutCoconeEquivBinaryCofanFunctorObj
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:191]:
```suggestion
def isLimitPullbackConeEquivBinaryFanFunctorObj
```

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean [hunk 5]
```diff
@@ -166,15 +166,49 @@ theorem over_hasTerminal (B : C) : HasTerminal (Over B) where
...
+  { obj c := PullbackCone.mk c.fst.left c.snd.left (c.fst.w.trans c.snd.w.symm)
+    map {c1 c2} a := { hom := a.hom.left, w := by rintro (_|_|_) <;> simp [← Over.comp_left] } }
+  unitIso := NatIso.ofComponents (fun c ↦ c.eta) (by intros; ext; dsimp; simp)
+  counitIso := NatIso.ofComponents (fun X ↦ Limits.BinaryFan.ext (Over.isoMk (Iso.refl _)
+    (by dsimp; simp)) (by ext; dsimp; simp) (by ext; dsimp; simp))
+    (by intros; ext; dsimp; simp [BinaryFan.ext])
+  functor_unitIso_comp c := by ext; dsimp; simp [BinaryFan.ext]
+
+/-- Binary products in the over category are given by pullbacks. -/
+-- `IsLimit.ofConeEquiv` isn't used here because it gives worse defeqs.
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:190]: Can you elaborate on this?

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean [hunk 6]
```diff
@@ -166,15 +166,49 @@ theorem over_hasTerminal (B : C) : HasTerminal (Over B) where
...
 open Limits
 
+variable {Y Z}
+
 lemma isPullback_of_binaryFan_isLimit (c : BinaryFan Y Z) (hc : IsLimit c) :
     IsPullback c.fst.left c.snd.left Y.hom Z.hom :=
-  ⟨by simp, ⟨((IsLimit.postcomposeHomEquiv (diagramIsoCospan _) _).symm
-    ((IsLimit.ofConeEquiv (ConstructProducts.conesEquiv X _).symm).symm hc)).ofIsoLimit
-    (PullbackCone.isoMk _)⟩⟩
+  ⟨by simp, ⟨(IsLimit.ofConeEquiv (pushoutCoconeEquivBinaryCofan Y Z).symm).symm hc⟩⟩
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:211]: I notice this one does use ofConeEquiv, does the consideration in the previous bit not apply?

File: Mathlib/CategoryTheory/Comma/Over/Basic.lean [hunk 7]
```diff
@@ -48,6 +48,9 @@ namespace Over
 
 variable {X : T}
 
+/-- The structure map of a object of `Over X`. -/
+abbrev hom {X : T} (Y : Over X) : Y.left ⟶ X := Comma.hom Y
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Comma/Over/Basic.lean:52]: Can we have a comment explaining why this is needed, to prevent someone else "golfing" it away? I'm guessing it's so the rhs is X rather than Y.right?

**Review by b-mehta — COMMENTED** [review]
Overall structure looks good

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:211]: Because `IsPullback` is `Prop` and this is wrapped in a `Nonempty`.

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:190]: It inserts the unit in the equivalence, which makes the lift `id >> pullback.lift` instead.

Comment (b-mehta) [reply Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:190]: Ah, annoying, let's mention that in this sentence though

File: Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean [hunk 8]
```diff
@@ -166,15 +166,49 @@ theorem over_hasTerminal (B : C) : HasTerminal (Over B) where
 
 section BinaryProduct
 
-variable {X : C} {Y Z : Over X}
+variable {X : C} (Y Z : Over X)
+
+/--
+Binary fans in the over category is equivalent to pullback cones.
+Also see `CategoryTheory.Over.ConstructProducts.conesEquivFunctor` for the wide pullback version.
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/CategoryTheory/Limits/Constructions/Over/Products.lean:173]: Yes it's the same issue. I've added a comment.

**Comment by erdOne** [comment]
@YaelDillies I don't think this depends on #23723?

**Comment by erdOne** [comment]
But the things added in your PR is not relevant to this PR because of defeq issues as stated in the comments.

File: Mathlib/CategoryTheory/ChosenFiniteProducts/Over.lean [hunk 9]
```diff
@@ -0,0 +1,176 @@
...
+  (limit.lift_π_assoc _ _ _).trans (limit.lift_π _ _)
+
+@[reassoc (attr := simp)]
+lemma associator_hom_left_snd_snd (R S T : Over X) :
+    (α_ R S T).hom.left ≫ pullback.snd _ (pullback.fst _ _ ≫ _) ≫ pullback.snd _ _ =
+      pullback.snd _ _ :=
+  (limit.lift_π_assoc _ _ _).trans (limit.lift_π _ _)
+
+@[reassoc (attr := simp)]
+lemma associator_inv_left_fst (R S T : Over X) :
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/ChosenFiniteProducts/Over.lean:84]:
```suggestion
lemma associator_inv_left_fst_fst (R S T : Over X) :
```
This was a typo in the API you copied

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by erdOne** [comment]
bors merge
